US05359085
Sodium hydride in an amount of 2 moles was suspended in 1.0 liter of toluene and heated at 40° C. To this, a mixed solution of 1 mole of diethyl succinate and 1.2 moles of acetone was added dropwise in 3 hours with stirring. The reaction was carried out for further 3 hours. Then, the reaction solution was poured into 1 kg of ice. The water layer was separated, made acidic by pouring 700 ml of 5M HCl thereinto, and extracted with 1.0 liter of 1,2-dichloroethane. The resulting organic layer was dried over anhydrous sodium sulfate, and concentrated. To the resulting residue, 1.0 liter of ethanol and 30 ml of concentrated sulfuric acid were added. The reaction was carried out under reflux for 4 hours. After the reaction, the solvent was removed from the reaction solution by distillation. The objected substance was extracted with dichloromethane and purified by distillation under reduced pressure to give diethylisopropylidene succinate in yield of 51%.

reactant | Sodium hydride | [H-].[Na+]
reactant | diethyl succinate | 1 mole | C(CCC(=O)OCC)(=O)OCC | C8H14O4
reactant | acetone | 1.2 moles | CC(=O)C | C3H6O
reactant | toluene | 1.0 liter | C1(=CC=CC=C1)C | C7H8
product | diethylisopropylidene succinate | yield of 51% | C1(CCC(=O)OC(C(CC)CC)(C)O1)=O | C11H18O4
